US07582643B2
To a solution of methyl 3,3-dimethoxypropionate (304 g, 2.05 mol) in dimethoxyethane (1.5 L) was added methyl formate (580 g, 9.44 mol). Sodium hydride (98.5 g, 60% suspension in mineral oil, 2.46 mol) was added portion-wise and the mixture was stirred at 50° C. for 5 hours and then at room temperature overnight. Diethyl ether (1.5 L) was added and the reaction was filtered under an atmosphere of nitrogen. The solid residue was washed with diethyl ether (300 mL×2) and dried to give 200 g (68.9%) of [methyl-2-(dimethoxymethyl)-3-(hydroxyl-kappaO)acrylatato]sodium. A mixture of this compound (63.5 g, 0.32 mol), 3-fluorobenzenecarboximidamide (38 g, 0.27 mol) and dimethylformamide (400 mL) was heated at 100° C. for 2 h. After this time the reaction was cooled to room temperature and water (400 mL) was added. The reaction was filtered and the residue was washed with water (100 mL×2) and dried to give 37 g (yield 59%) of methyl 2-(3-fluorophenyl)pyrimidine-5-carboxylate.

reactant | 3-fluorobenzenecarboximidamide | 0.27 mol, 38 g | FC=1C=C(C=CC1)C(N)=N | C7H7FN2
reactant | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
reactant | water | 400 mL | O | H2O
product | methyl 2-(3-fluorophenyl)pyrimidine-5-carboxylate | 37 g, yield 59% | FC=1C=C(C=CC1)C1=NC=C(C=N1)C(=O)OC | C12H9FN2O2
